US08258160B2
Synthesis of N-benzyl-4-methyl-2-(4-((phenylamino)methyl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxamide
Following the procedure as described in Example 10, making variations as necessary to replace phenylacetylene with phenyl prop-2-ynyl amine to react with 2-azido-N-benzyl-4-methylthiazole-5-carboxamide, the title compound was obtained as a white solid in 18% yield: mp 159-162° C. (dichloromethane/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.31 (s, 1H), 7.42-7.35 (m, 5H), 7.30-7.21 (m, 2H), 6.82-6.77 (m, 1H), 6.73-6.69 (m, 2H), 6.18 (t, J=6.0 Hz, 1H), 4.66 (d, J=6.0 Hz, 2H), 4.58 (d, J=6.0 Hz, 2H), 4.32 (br s, 1H), 2.70 (s, 3H); 13C NMR (75 MHz, CDCl3) 160.9, 155.4, 153.1, 147.7, 147.1, 137.4, 129.4, 128.9, 127.9, 127.9, 124.5, 119.3, 118.3, 113.1, 44.3, 39.6, 17.4; MS (ES+) m/z 405.3 (M+1).

reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | phenyl prop-2-ynyl amine | C1(=CC=CC=C1)NCC#C | C9H9N
reactant | 2-azido-N-benzyl-4-methylthiazole-5-carboxamide | N(=[N+]=[N-])C=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1 | C12H11N5OS
product | N-benzyl-4-methyl-2-(4-((phenylamino)methyl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxamide | 18% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1)CNC1=CC=CC=C1)C | C21H20N6OS
